US08802864B2
a) 1,1-dimethylethyl (3S)-3-{[4-(4-bromo-2-fluorophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-1-pyrrolidinecarboxylate
Into a 250 mL round bottom flask was placed 1,1-dimethylethyl (3S)-3-[2-(2-{[(4-bromo-2-fluorophenyl)amino]carbonyl}hydrazino)-2-oxoethyl]-1-pyrrolidinecarboxylate (4.35 mmol). Added to the flask was K2CO3 (21.71 mmol), water (100 mL), and 1-propanol (10.00 mL). The solution was stirred at reflux (140° C.) for 16 h and then cooled to room temperature and filtered to remove an undetermined solid. The filtrate was concentrated in vacuo. Added to the white solid was 1N aq NaOH (10 mL) followed by the addition of Boc2O (4.35 mmol). The solution was stirred at room temperature overnight. The solution was diluted with 100 mL ethyl acetate and brought to a pH=7 with the addition of 1N aq HCl. The organic layer was separated and the aqueous layer was washed twice with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Silica gel purification (100% dichloromethane, 0-100% ethyl acetate, and 0-10% methanol:ethyl acetate) provided the title product (790 mg, 39%). MS(ES)+ m/e 442.0, 443.0 [M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-[2-(2-{[(4-bromo-2-fluorophenyl)amino]carbonyl}hydrazino)-2-oxoethyl]-1-pyrrolidinecarboxylate | 4.35 mmol | BrC1=CC(=C(C=C1)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O)F | C18H24BrFN4O4
reactant | K2CO3 | 21.71 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | Boc2O | 4.35 mmol | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1N | Cl | ClH
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | 1-propanol | 10.00 mL | C(CC)O | C3H8O
solvent | water | 100 mL | O | H2O
product | 1,1-dimethylethyl (3S)-3-{[4-(4-bromo-2-fluorophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-1-pyrrolidinecarboxylate | 790 mg, 39% | BrC1=CC(=C(C=C1)N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C)F | C18H22BrFN4O3
